US07423150B2
Step 1: Synthesis of N-{4-[4-(methylamino)-3-nitrophenoxy](2-pyridyl)}[(2-morpholin-4-ylethyl)amino]carboxamide
A flame dried flask was charged with 4-[4-(methylamino)-3-nitrophenoxy]-pyridine-2-carboxylic acid (1 eq), diphenylphosphoryl azide (1.1 eq), triethylamine (2.1 eq) and 20 ml toluene and heated for one and one half hours at 75° C. To this was added 2-morpholin-4-ylethylamine (1.2 eq) and the resulting mixture was stirred at 75° C. overnight. The reaction was then concentrated and partitioned between ethyl acetate and distilled water. The organic layer was dried with sodium sulfate and concentrated and titurated with ether then hexanes to give the purified product. MS: MH+=417.

reactant | 4-[4-(methylamino)-3-nitrophenoxy]-pyridine-2-carboxylic acid | 1 eq | CNC1=C(C=C(OC2=CC(=NC=C2)C(=O)O)C=C1)[N+](=O)[O-] | C13H11N3O5
reactant | diphenylphosphoryl azide | 1.1 eq | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | triethylamine | 2.1 eq | C(C)N(CC)CC | C6H15N
reactant | 2-morpholin-4-ylethylamine | 1.2 eq | N1(CCOCC1)CCN | C6H14N2O
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | N-{4-[4-(methylamino)-3-nitrophenoxy](2-pyridyl)}[(2-morpholin-4-ylethyl)amino]carboxamide | CNC1=C(C=C(OC2=CC(=NC=C2)NC(=O)NCCN2CCOCC2)C=C1)[N+](=O)[O-] | C19H24N6O5
